US04459236
126 parts of isobutyraldehyde and 7 parts of p-toluenesulfonic acid are added in succession to a solution of 605.5 parts of n-octyl carbamate in 1,750 parts by volume of diethyl ether at 25° C., after which the temperature rises to 40° C. for one hour. After one day, the solid product which as crystallized out is filtered off with suction and fractionally distilled in the presence of 10 parts of p-toluenesulfonic acid and one part of hydroquinone. 298.3 parts of n-octyl N-(2-methyl-1-propenyl)-carbamate (75.1% yield, based on isobutyraldehyde employed) of boiling point 126° C./1 mbar are obtained, and 279.5 parts of n-octyl carbamate are recovered and can be re-used.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-octyl carbamate | C(N)(OCCCCCCCC)=O | C9H19NO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | n-octyl N-(2-methyl-1-propenyl)-carbamate | 75.1% yield | CC(=CNC(OCCCCCCCC)=O)C | C13H25NO2
